US04167568
2-(5-Carboxy-2-propoxyphenyl)-8-azapurin-6-one
A suspension of 2-(5-methyl-2-propoxyphenyl)-8-azapurin-6-one (2.85 g; prepared as described in the specifications of British Pat. No. 1338235 and U.S. Pat. No. 3,819,631) in water (80 ml) was treated with sodium hydroxide (1.0 g). Potassium permanganate (6.3 g) was then added to the resulting solution, and the mixture was stirred and heated at reflux for 150 minutes. The hot mixture was filtered through diatomaceous earth to remove manganese dioxide and the filtrate was acidified with concentrated hydrochloric acid. The solid precipitate was then dissolved in hot aqueous ammonia solution (2 N) and then acidified again with concentrated hydrochloric acid. The resulting hot suspension was then filtered and the white solid formed was washed with water. The solid was treated with ethanol (50 ml) and the resulting suspension was brought to reflux and the 2-(5-carboxy-2-propoxyphenyl)-8-azapurin-6-one (1.8 g), m.p. 271°-272° C. (with decomposition), was filtered off from the hot mixture.

reactant | 2-(5-methyl-2-propoxyphenyl)-8-azapurin-6-one | CC=1C=CC(=C(C1)C1=NC(C2=NN=NC2=N1)=O)OCCC | C14H13N5O2
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | Potassium permanganate | 6.3 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 80 ml | O | H2O
product | 2-(5-Carboxy-2-propoxyphenyl)-8-azapurin-6-one | C(=O)(O)C=1C=CC(=C(C1)C1=NC(C2=NN=NC2=N1)=O)OCCC | C14H11N5O4
